*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/X8L(-55to150[deg])/4.70e-02[uF]/50[V]
* Murata P/N :GCM155L8EH473KE07
* Property : C = 4.70e-02[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GCM155L8EH473KE07 Port1 Port2
C01 Port1 N01 4.44e-08
R01 Port1 N01 1.06e+09
L02 N01 N02 1.77e-10
R03 N02 N03 2.31e-02
C04 N03 N04 4.51e-06
R04 N03 N04 8.83e+02
C05 N04 N05 7.90e-06
R05 N04 N05 7.87e+01
C06 N05 N06 5.94e-06
R06 N05 N06 1.50e+01
C07 N06 N07 6.11e-06
R07 N06 N07 1.80e+00
C08 N07 N08 4.31e-06
R08 N07 N08 3.84e-01
C09 N08 N09 2.96e-06
R09 N08 N09 5.99e-02
C10 N09 N10 3.75e-06
R10 N09 N10 7.79e-03
L11 N10 N11 1.71e-11
R11 N10 N11 2.64e-01
L12 N11 N12 8.21e-11
R12 N11 N12 1.33e-01
C13 N12 N13 1.12e-07
L13 N12 N13 2.75e-11
R13 N12 N13 2.45e-02
C14 N13 N14 7.10e-08
L14 N13 N14 1.81e-11
R14 N13 N14 2.62e-02
C15 N14 Port2 9.59e-12
L15 N14 Port2 3.08e-11
R15 N14 Port2 6.02e+00
.ENDS GCM155L8EH473KE07
